US05506219
To a slurry of LiAlH4 (1.457 gm, 38.4 mmol) in dry THF at 0° C. was added a solution of 2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinecarboxylic acid, ethyl ester (3.37 gm, 9.27 mmol) in THF (7 ml). After 4.5 hours, the flask was charged with an additional 0.88 gm LiAlH4 and stirring was continued for 2 more hours. The mixture was quenched with H2O and diluted with H2O and EtOAc. The phases were shaken and separated, and the aqueous layer was extracted again with EtOAc and Et2O. The pooled organic layers were washed with H2O and brine, then dried (Na2SO4), filtered and stripped to give a white solid. The solid was recrystallized from hot EtOAc/hexane to afford 2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinemethanol as white crystals. The mother liquor was stripped and recrystallized again from hot EtOAc/hexane to give a total of 2.684 gm (90%) desired product.

reactant | LiAlH4 | 38.4 mmol, 1.457 gm | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinecarboxylic acid, ethyl ester | 9.27 mmol, 3.37 gm | FC1=CC=C(C=C1)C1=NC(=CC(=C1C(=O)OCC)C(C)C)C1=CC=CC=C1 | C23H22FNO2
reactant | LiAlH4 | 0.88 gm | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 2-(4-fluorophenyl)-4-(1-methylethyl)-6-phenyl-3-pyridinemethanol | FC1=CC=C(C=C1)C1=NC(=CC(=C1CO)C(C)C)C1=CC=CC=C1 | C21H20FNO
